US04046889
Benzyloxycarbonyl-L-proline tert.butyl ester (205 g.) is dissolved in absolute ethanol (1.2 l) and hydrogenated at normal pressure with 10% Pd on carbon (10 g.) until only a trace of carbon dioxide is observed in the hydrogen exit gas (24 hours). The catalyst is filtered off and the filtrate is concentrated in vacuo at 30 mm. Hg. The residue is distilled in vacuo, to obtain L-proline tert.butyl ester, b.p.1mm 50°-51°.

reactant | Benzyloxycarbonyl-L-proline tert.butyl ester | 205 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C17H23NO4
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1.2 l | C(C)O | C2H6O
catalyst | Pd on carbon | 10 g | [Pd] | Pd
product | L-proline tert.butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
